US04469865
To 10 ml of dry acetonitrile were added 3.3 g of 1-acetylimidazole and 8.04 g of 4-ethoxycarbonylcinnamyl bromide, and the mixture was heated for 3 hours at 60° C. under stirring. After cooling, to the reaction mixture was added an adequate amount of dry diethyl ether and the resulting powder was collected by filtration and dried to obtain 10.8 g of 1-acetyl-3-(4-ethoxycarbonylcinnamyl)-imidazolium bromide. (colorless hygroscopic amorphous).

reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 1-acetylimidazole | 3.3 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | 4-ethoxycarbonylcinnamyl bromide | 8.04 g | C(C)OC(=O)C1=CC=C(C=CCBr)C=C1 | C12H13BrO2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-acetyl-3-(4-ethoxycarbonylcinnamyl)-imidazolium bromide | 10.8 g | [Br-].C(C)(=O)[N+]1=CN(C=C1)CC=CC1=CC=C(C=C1)C(=O)OCC | InChI=1S/C17H19N2O3.BrH/c1-3-22-17(21)16-8-6-15(7-9-16)5-4-10-18-11-12-19(13-18)14(2)20;/h4-9,11-13H,3,10H2,1-2H3;1H/q+1;/p-1
